US04298739
2.5 Grams of 5-(3-carboxy)propoxy-3,4-dihydrocarbostyril and 2.0 ml of N-methylmorpholine are added to 200 ml of methylene chloride, and then 1.0 ml of methyl chloroformate is added dropwise to said solution under external ice cooling and agitation while maintaining the internal temperature at 10°-20° C. After this dropwise addition, the mixture is further agitated at room temperature for 30 minutes and then added with 1.3 ml of N-ethylaniline, followed by additional 4-hour agitation at the same temperature. After the reaction, the reaction solution is added with water, and after liquid separation, the organic layer is washed with a dilute aqueous NaOH solution, diluted hydrochloric acid and water in that order and then dried with anhydrous Na2SO4. After filtering out the inorganic matter, the mother liquor is concentrated and the residue is recrystallized from ethanol, consequently obtaining 2.6 g of 5-[3-(N-ethylanilinocarbonyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals. m.p. 179.5°-180.5° C.

reactant | 5-(3-carboxy)propoxy-3,4-dihydrocarbostyril | C(=O)(O)CCCOC1=C2CCC(NC2=CC=C1)=O | C13H15NO4
reactant | N-methylmorpholine | 2.0 ml | CN1CCOCC1 | C5H11NO
reactant | methyl chloroformate | 1.0 ml | ClC(=O)OC | C2H3ClO2
reactant | N-ethylaniline | 1.3 ml | C(C)NC1=CC=CC=C1 | C8H11N
solvent | water | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5-[3-(N-ethylanilinocarbonyl)propoxy]-3,4-dihydrocarbostyril | 2.6 g | C(C)N(C1=CC=CC=C1)C(=O)CCCOC1=C2CCC(NC2=CC=C1)=O | C21H24N2O3
